US04760163
using isopropyl 2-chloro-4-fluoro-5-ureidobenzoate and methyl 3-oxotetrahydrothiophene-2-carboxylate there is obtained isopropyl 2-chloro-4-fluoro-5-{3-[2-(methoxycarbonyl)-4,5-dihydro-thien-3-yl]ureido}-benzoate, m.p. 161°-163° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-ureidobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)N | C11H12ClFN2O3
reactant | methyl 3-oxotetrahydrothiophene-2-carboxylate | O=C1C(SCC1)C(=O)OC | C6H8O3S
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(methoxycarbonyl)-4,5-dihydro-thien-3-yl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC1=C(SCC1)C(=O)OC | C17H18ClFN2O5S
